US06255496B1
4-[4-[2-(2-acetoxyethylthio]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone
A solution of 3-[4-[2-(2-acetoxyethylthio)ethoxy]phenyl] propanoic acid, (36.13 g, 0.115 mol) in dichloromethane (250 ml) was treated with oxalyl chloride (24 ml) and a drop of N,N-dimethylformamide. After 1 h at 25° C., the solvent and excess reagent were evaporated in vacuo. The residual oil was dissolved in toluene (250 ml) cooled to 0° C. and treated with trifluoroacetic anhydride (49.0 ml, 0.347 mol). Then pyridine (19.0 ml, 0.232 mol) was added dropwise over 30 min and the resulting mixture was stirred at 22° C. for 3 h. The solution was then cooled again to 0° C., treated dropwise with water (70 ml) and then stirred at 22° C. for 30 min. The solution was then diluted with ethyl acetate, washed with water, saturated sodium bicarbonate, brine and dried (magnesium sulfate). Evaporation of the solvent in vacuo gave an oil which was chromatographed on silica gel. Elution with a mixture of dichlorimethane and ethyl acetate (0-2%) gave 26.10 g (62%) of the title material as an oil.

reactant | 3-[4-[2-(2-acetoxyethylthio)ethoxy]phenyl] propanoic acid | 0.115 mol, 36.13 g | C(C)(=O)OCCSCCOC1=CC=C(C=C1)CCC(=O)O | C15H20O5S
reactant | oxalyl chloride | 24 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trifluoroacetic anhydride | 0.347 mol, 49.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 0.232 mol, 19.0 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 70 ml | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[4-[2-(2-acetoxyethylthio]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 26.10 g, 62% | C(C)(=O)OCCSCCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C16H19F3O4S
